### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): analytic order at zero with vanishing value

### PR DESCRIPTION
**Pull request by psinary-sketch**
Add AnalyticAt.analyticOrderAt_eq_one_of_zero_deriv_ne_zero: if f is analytic at x, f(x) = 0, and f'(x) ≠ 0, then analyticOrderAt f x = 1.
Placed next to analyticOrderAt_sub_eq_one_of_deriv_ne_zero in Order.lean per review feedback on #36778.

AI disclosure: Lean code developed with Claude (Anthropic) assistance in workflow. Mathematical content and proof strategies are original. All code verified locally with lake env lean before submission.

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -323,6 +323,16 @@ theorem AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero {x : 𝕜} (hf :
...
+set_option backward.isDefEq.respectTransparency false in
+/-- At a zero with nonvanishing derivative, the analytic order is 1.
+This is a variant of `analyticOrderAt_sub_eq_one_of_deriv_ne_zero` with `f z₀ = 0`
+replacing the subtraction. -/
+theorem AnalyticAt.analyticOrderAt_eq_one_of_zero_deriv_ne_zero {x : 𝕜}
+    (hf : AnalyticAt 𝕜 f x) (hfx : f x = 0) (hf' : deriv f x ≠ 0) :
+    analyticOrderAt f x = 1 := by
+  have h := hf.analyticOrderAt_sub_eq_one_of_deriv_ne_zero hf'
+  rwa [analyticOrderAt_congr (by filter_upwards with w; rw [hfx, sub_zero])] at h
+set_option backward.isDefEq.respectTransparency false in
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
  simpa [hfx] using hf.analyticOrderAt_sub_eq_one_of_deriv_ne_zero hf'

```
Your proof was a little bit too complicated: as `f x = 0`, you can just replace that in `h`, no need to use `analyticOrderAt_congr`.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 2]
```diff
@@ -323,6 +323,16 @@ theorem AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero {x : 𝕜} (hf :
         deriv_fun_pow (by fun_prop), sub_self, zero_pow (by lia), zero_pow (by lia),
         mul_zero, zero_mul, zero_smul, zero_smul, add_zero]
 
+set_option backward.isDefEq.respectTransparency false in
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
```
This is not needed here.

Comment (psinary-sketch) [reply Mathlib/Analysis/Analytic/Order.lean]: Thank you — both applied. The simpa is cleaner.

Comment (psinary-sketch) [reply Mathlib/Analysis/Analytic/Order.lean]: Apologies , appreciate your time and talent on this. i had missed that the suggestion spanned both. Removed now.
